US05508430
15.0 g of pyridinium chlorochromate and 10.0 g of crushed 3A molecular sieves were added to a solution of 5.50 g (0.019 mol) of β(R)-benzyloxy-1,4-dioxaspiro[4,5]-decane-2(R)-ethanol in 200 ml of dichloromethane. The mixture was stirred at room temperature for 20 hours, then diluted with 200 ml of diethyl ether and filtered. The filtrate was evaporated to give 4.30 g of α(S)-benzyloxy-1,4-dioxaspiro[4,5]decane-2(R)-acetaldehyde which was used in the next step without further purification.

reactant | pyridinium chlorochromate | 15.0 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | β(R)-benzyloxy-1,4-dioxaspiro[4,5]-decane-2(R)-ethanol | 0.019 mol, 5.50 g | C(C1=CC=CC=C1)O[C@H](CO)[C@@H]1OC2(OC1)CCCCC2 | C17H24O4
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
product | α(S)-benzyloxy-1,4-dioxaspiro[4,5]decane-2(R)-acetaldehyde | 4.30 g | C(C1=CC=CC=C1)O[C@H](C=O)[C@@H]1OC2(OC1)CCCCC2 | C17H22O4
